US08053457B2
1-(4-Chloro-benzyl)-2-methyl-4-phenyl-1H-imidazole
A mixture of 2-methyl-4-phenyl-1H-imidazole HCl salt (1.51 g, 7.75 mmol), 4-chlorobenzyl bromide (1.75 g, 8.53 mmol) and NaH (745 mg, 18.6 mmol) in DMF (20 mL) is stirred at RT. After completion the reaction mixture is quenched by H2O. EtOAc is added and the organic layer is washed with brine, dried over MgSO4 and evaporated in vacuo. Silica gel flash chromatography of the residue affords the title compound as a colorless powder; ES-MS: M+=283.1: At Ret=3.93 min.

reactant | 2-methyl-4-phenyl-1H-imidazole HCl salt | 7.75 mmol, 1.51 g | Cl.CC=1NC=C(N1)C1=CC=CC=C1
reactant | 4-chlorobenzyl bromide | 8.53 mmol, 1.75 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | NaH | 18.6 mmol, 745 mg | [H-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(4-Chloro-benzyl)-2-methyl-4-phenyl-1H-imidazole | ClC1=CC=C(CN2C(=NC(=C2)C2=CC=CC=C2)C)C=C1 | C17H15ClN2
